US07041687B2
3-tert-Butoxycarbonylamino-2-(3,4-dichloro-phenyl)-propionic acid:
To 3-tert-Butoxycarbonylamino-2-(3,4-dichloro-phenyl)-propionic acid methyl ester (17.11 g, 0.049 mol) in tetrahydrofuran-water (200 ml of each) was added lithium hydroxide (1.18 g, 0.049 mol). The reaction mixture was stirred at room temperature for 6 hours. THF was removed in vacuo and the pH was adjusted to pH 4 with 2M hydrochloric acid. The aqueous phase was extracted with EtOAc (3×100 ml). The combined organic phases were dried (MgSO4) and concentrated in vacuo. The title compound was obtained as a foam in 89% yield (14.67 g). 1H NMR (400 MHz, DMSO-d6) δ 1.30 (9H, s), 3.22–3.35 (1H, m), 3.35–3.50 (1H, m), 3.76 (1H, t), 6.84 (1H, t), 7.24 (1H, m); 7.48 (1H, s), 7.58 (1H, d), 12.85 (1H, s); MS (ES+): m/e=334.2 (8%); MS (ES−): m/e=332.2 (100%), 334.1 (65%), 336.1 (10%).

reactant | 3-tert-Butoxycarbonylamino-2-(3,4-dichloro-phenyl)-propionic acid methyl ester | 0.049 mol, 17.11 g | COC(C(CNC(=O)OC(C)(C)C)C1=CC(=C(C=C1)Cl)Cl)=O | C15H19Cl2NO4
reactant | lithium hydroxide | 0.049 mol, 1.18 g | [OH-].[Li+]
solvent | tetrahydrofuran water | O1CCCC1.O
product | 3-tert-Butoxycarbonylamino-2-(3,4-dichloro-phenyl)-propionic acid | 89% yield | C(C)(C)(C)OC(=O)NCC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H17Cl2NO4
